US06927228B2
N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylnicotinamide
In a manner similar to that of Example 37(e), by reacting 1 g (2.2 mmol) of 5-(3′-methylaminomethyl-biphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoro-acetate with 450 mg (2.5 mmol) of nicotinoyl chloride, and after purification, 400 mg (40%) of N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylnicotinamide are obtained in the form of a white solid with a melting point of 115° C.

reactant | 5-(3′-methylaminomethyl-biphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoro-acetate | 2.2 mmol, 1 g | FC(C(=O)O)(F)F.CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O
reactant | nicotinoyl chloride | 2.5 mmol, 450 mg | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylnicotinamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CN=CC=C1)=O)C | C24H21N3O3S
